US04179505
A mixture of 4.1 parts of 5-[4-(diphenylmethyl)-1-piperazinylmethyl]-1-ethyl-1H-benzimidazole, 1.2 parts of sodium amide and 20 parts of N,N-dimethylbenzenamine is stirred and heated slowly to 135° C. Stirring at 135° C. is continued for 3 hours. The reaction mixture is cooled and poured onto water. The product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) and a small amount of ammonium hydroxide as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from methylbenzene. The product is filtered off and dried, yielding 1.5 parts of 5-[4-(diphenylmethyl)-1-piperazinylmethyl]-1-ethyl-1H-benzimidazol-2-amine; mp. 214.3° C.

reactant | 5-[4-(diphenylmethyl)-1-piperazinylmethyl]-1-ethyl-1H-benzimidazole | C1(=CC=CC=C1)C(N1CCN(CC1)CC1=CC2=C(N(C=N2)CC)C=C1)C1=CC=CC=C1 | C27H30N4
reactant | sodium amide | [NH2-].[Na+]
reactant | N,N-dimethylbenzenamine | CN(C1=CC=CC=C1)C | C8H11N
product | 5-[4-(diphenylmethyl)-1-piperazinylmethyl]-1-ethyl-1H-benzimidazol-2-amine | C1(=CC=CC=C1)C(N1CCN(CC1)CC1=CC2=C(N(C(=N2)N)CC)C=C1)C1=CC=CC=C1 | C27H31N5
